data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4533,5173,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C:19]#[N+:20][C-:21]([CH3:22])[C:23]#[N:24]>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:21]([CH3:22])([C:23]#[N:24])[N:20]=[C:19]2[C:17]([NH:16][CH3:15])=[O:18],water,298.15,12.315470766614771,-28.920513428897525
1420,1562,[CH3:12][NH:13][C:14](=[O:15])[C-:16]([C:17](=[O:18])[NH:19][CH3:20])[N+:21]([CH3:22])=[CH:23][C:24]#[N:25].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Cl:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([Cl:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:16]([C:14]([NH:13][CH3:12])=[O:15])([C:17](=[O:18])[NH:19][CH3:20])[N:21]([CH3:22])[CH:23]2[C:24]#[N:25],water,298.15,23.368526583715443,-19.44385543592353
878,951,[CH3:1]/[C:2]([F:3])=[C:4](\[CH3:5])[F:6].[CH3:7][O:8][C:9](=[O:10])[C-:11]([C:12]([CH3:13])=[O:14])[N+:15]([CH3:16])=[CH:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH3:1][C@@:2]1([F:3])[C@:4]([CH3:5])([F:6])[C:11]([C:9]([O:8][CH3:7])=[O:10])([C:12]([CH3:13])=[O:14])[N:15]([CH3:16])[CH:17]1[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,33.751306577612894,-13.352066440926452
671,731,[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][C:8]([CH3:9])([C:10]#[N:11])[CH2:12][CH2:13][CH2:14][CH2:15]1.[CH:16]#[N+:17][C-:18]([CH3:19])[C:20]([CH3:21])=[O:22]>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]2=[C:7]([C:8]([CH3:9])([C:10]#[N:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[C:18]([CH3:19])([C:20]([CH3:21])=[O:22])[N:17]=[CH:16]2,water,298.15,11.027948331353777,-64.83774406445153
1786,1977,[Br:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2.[CH3:10][C:11](=[O:12])[C:13]([C:14]#[N:15])=[O+:16][C-:17]([C:18]#[N:19])[C:20]([CH3:21])=[O:22]>>[Br:1][C:2]12[C:3]([Br:4])([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[C:17]([C:18]#[N:19])([C:20]([CH3:21])=[O:22])[O:16][C:13]2([C:11]([CH3:10])=[O:12])[C:14]#[N:15],water,298.15,9.80264187876574,-41.298460240444285
2649,2938,[CH3:13][NH:14][C:15](=[O:16])[C:17]([C:18]([CH3:19])=[O:20])=[N+:21]([CH3:22])[C-:23]([C:24](=[O:25])[NH:26][CH3:27])[C:28](=[O:29])[O:30][CH3:31].[F:1][C:2]1([F:3])[C:4]#[C:5][C:6]([Cl:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1>>[F:1][C:2]1([F:3])[C:4]2=[C:5]([C:6]([Cl:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1)[C:17]([C:15]([NH:14][CH3:13])=[O:16])([C:18]([CH3:19])=[O:20])[N:21]([CH3:22])[C:23]2([C:24](=[O:25])[NH:26][CH3:27])[C:28](=[O:29])[O:30][CH3:31],water,298.15,20.54445385401977,-48.245062364484994
1596,1765,[CH3:15][C:16](=[O:17])[CH-:18][NH+:19]=[C:20]([C:21]#[N:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([F:7])([F:8])[F:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([C:6]([F:7])([F:8])[F:9])([CH:10]3[CH:11]=[CH:12][CH:13]1[O:14]3)[C:20]([C:21]#[N:22])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[NH:19][CH:18]2[C:16]([CH3:15])=[O:17],water,298.15,13.108958023906188,-10.723040629072017
2305,2555,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]#[C:10][C:11]([C:12]([CH3:13])=[O:14])([C:15]([CH3:16])=[O:17])[CH2:18][CH2:19][CH2:20][CH2:21]1.[CH3:22][NH:23][C:24](=[O:25])[c-:26]1[o+:27][c:28]([CH3:29])[o:30][c:31]1=[O:32]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]2=[C:10]([C:11]([C:12]([CH3:13])=[O:14])([C:15]([CH3:16])=[O:17])[CH2:18][CH2:19][CH2:20][CH2:21]1)[C:28]1([CH3:29])[O:27][C:26]2([C:24]([NH:23][CH3:22])=[O:25])[C:31](=[O:32])[O:30]1,water,298.15,22.19544287556849,-22.451745799327
3696,4218,[CH3:6][O:7][C:8](=[O:9])[C-:10]([CH3:11])[O+:12]=[CH:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1.[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:10]([C:8]([O:7][CH3:6])=[O:9])([CH3:11])[O:12][CH:13]1[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,28.31765795615184,2.063708401320827
510,557,[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][C:7]#[N:8].[CH3:9][NH:10][C:11](=[O:12])[CH:13]=[N+:14]([CH3:15])[C-:16]([CH3:17])[C:18](=[O:19])[NH:20][CH3:21]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:13]([C:11]([NH:10][CH3:9])=[O:12])[N:14]([CH3:15])[C:16]1([CH3:17])[C:18](=[O:19])[NH:20][CH3:21],water,298.15,6.241847176204734,-59.74337743155913
5232,5936,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C:19]([CH3:20])=[N+:21]([CH3:22])[C-:23]([C:24](=[O:25])[NH:26][CH3:27])[C:28](=[O:29])[NH:30][CH3:31]>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:23]([C:24](=[O:25])[NH:26][CH3:27])([C:28](=[O:29])[NH:30][CH3:31])[N:21]([CH3:22])[C:19]2([C:17]([NH:16][CH3:15])=[O:18])[CH3:20],water,298.15,38.61550696724972,3.782525780223738
